US08008327B2
To a stirred room temperature solution of indazole-4-carboxylic acid (1.0 g, 6.1 mmol) in DMF (15 mL) was added PyBOP (3.5 g, 6.5 mmol) and triethylamine (0.90 g, 7.5 mmol). After 15 minutes, 3-trifluoromethyl-benzylamine (1.2 g, 7.0 mmol) was added. After 4 hours, the mixture was quenched with water (30 mL) and diluted with ethyl acetate (20 mL). The organic layer was separated, washed with brine (30 mL), dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of 20-60% ethyl acetate in hexanes to afford 1H-indazole-4-carboxylic acid 3-trifluoromethyl-benzylamide.

reactant | indazole-4-carboxylic acid | 6.1 mmol, 1.0 g | N1N=CC=2C(=CC=CC12)C(=O)O | C8H6N2O2
reactant | PyBOP | 6.5 mmol, 3.5 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 7.5 mmol, 0.90 g | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethyl-benzylamine | 7.0 mmol, 1.2 g | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1H-indazole-4-carboxylic acid 3-trifluoromethyl-benzylamide | FC(C=1C=C(CNC(=O)C=2C=3C=NNC3C=CC2)C=CC1)(F)F | C16H12F3N3O
